US06008230
A mixture of 4-chloro-3-ethoxycarbonyl-8-nitroquinoline (199 mg), dimethylamine hydrochloride (63.6 mg) and triethylamine (78.9 mg) in dioxane was refluxed for 3 hours. After cooling, the mixture was diluted with ethyl acetate, washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (ethyl acetate:n-hexane, 1:2, v/v) to give 4-dimethylamino-3-ethoxycarbonyl-8-nitroquinoline (122 mg).

reactant | 4-chloro-3-ethoxycarbonyl-8-nitroquinoline | 199 mg | ClC1=C(C=NC2=C(C=CC=C12)[N+](=O)[O-])C(=O)OCC | C12H9ClN2O4
reactant | dimethylamine hydrochloride | 63.6 mg | Cl.CNC
reactant | triethylamine | 78.9 mg | C(C)N(CC)CC | C6H15N
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-dimethylamino-3-ethoxycarbonyl-8-nitroquinoline | 122 mg | CN(C1=C(C=NC2=C(C=CC=C12)[N+](=O)[O-])C(=O)OCC)C | C14H15N3O4
